US07153854B2
A mixture of 2-[2-(2-chloroethoxy)ethoxy]ethyl acetate (6.23 g) and sodium iodide (22.2 g) in acetone (60 mL) was refluxed for 4 hours. The mixture was further refluxed for 4 hours after adding sodium iodide (11.0 g). The solvent was evaporated off, and the residue was partitioend between EtOAc (50 mL) and water (50 mL). The aqueous layer was washed with 10% sodium thiosulfate and brine, dried over MgSO4, and evaporated to give 2-[2-(2-iodoethoxy)ethoxy]ethyl acetate as a pale yellow oil (9.74 g).

reactant | 2-[2-(2-chloroethoxy)ethoxy]ethyl acetate | 6.23 g | C(C)(=O)OCCOCCOCCCl | C8H15ClO4
reactant | sodium iodide | 22.2 g | [I-].[Na+]
reactant | sodium iodide | 11.0 g | [I-].[Na+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 2-[2-(2-iodoethoxy)ethoxy]ethyl acetate | 9.74 g | C(C)(=O)OCCOCCOCCI | C8H15IO4
